US06897231B2
B. 2-(5-(2H-1,2,3,4-Tetrazol-5-yl)-1H-indazole-3-yl)furan
The title compound was prepared from 3-(2-furyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.095 g, 0.307 mmol), azidotributyl tin (0.245 g, 0.202 mL, 0.74 mmol) in toluene (8 mL) as described for the preparation of compound 167. Deprotection was effected by treating a dioxane solution (5 mL) with 8 mL of 4.0N solution of hydrogen chloride in 1,4-dioxane. The compound was purified by preparative HPLC (10-100% acetonitrile in H2O, 20 min) (0.008 g, 0.032 mmol, 4.7% yield over 2 steps): 1H NMR (DMSO-d6) δ 13.6 (br s, 1H), 8.8 (s, 1H), 8.1 (d, 1H), 7.9 (d, 1H), 7.8 (d, 1H), 7.1 (d, 1H), 6.7 (dd, 1H); ES-MS (m/z) 253 [M+1]+.

reactant | 3-(2-furyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.307 mmol, 0.095 g | O1C(=CC=C1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C17H15N3O2
reactant | azidotributyl tin | 0.74 mmol, 0.202 mL, 0.245 g | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(5-(2H-1,2,3,4-Tetrazol-5-yl)-1H-indazole-3-yl)furan | 4.7% yield | N=1NN=NC1C=1C=C2C(=NNC2=CC1)C=1OC=CC1 | C12H8N6O
